US06511974B1
[4-(4-Methyl-pyrazol-1-yl)-2-trifluoromethyl-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 2, employing (4-fluoro-2-trifluoromethyl-phenyl)(5H, 11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.8 g), 60% sodium hydride in oil (0.15 g), 4-methylpyrazole (0.20 g) and dimethylformamide (25 ml), the product (0.47 g) was obtained as a colorless amorphous solid, MS, m/z: 437.3 (M+H)+, 873.2 (2M+H)+.

reactant | (4-fluoro-2-trifluoromethyl-phenyl)(5H, 11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.8 g | FC1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C(F)(F)F | C20H14F4N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methylpyrazole | 0.20 g | CC=1C=NNC1 | C4H6N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-(4-Methyl-pyrazol-1-yl)-2-trifluoromethyl-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.47 g | CC=1C=NN(C1)C1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C(F)(F)F | C24H19F3N4O
